US07790727B2
1.4 4-[5-(3-Difluoromethoxy-benzenesulfonylamino)-2-methoxy-phenyl]-piperazine-1-carboxylic Acid tert-butyl Ester
0.745 g of 4-(5-Amino-2-methoxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (2.423 mmol) were dissolved in 35 ml of pyridine. 0.588 g of 3-(difluoromethoxy)-benzene-sulfonylchloride were added dropwise and the reaction mixture was stirred for 72 h at room temperature. The solvent was evaporated, the residue was dissolved in 40 ml dichloromethane and the organic phase was washed twice with 30 ml aqueous saturated ammonium chloride. The organic phase was dried over magnesium sulfate, filtered, and the solvent was evaporated under reduced pressure. The crude product was purified three times via silica gel chromatography using dichloromethane-methanol, and dichloromethane-ethyl acetate as eluent. 0.94 g of the title compound were isolated.

reactant | 4-(5-Amino-2-methoxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 2.423 mmol, 0.745 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)N)OC | C16H25N3O3
reactant | 3-(difluoromethoxy)-benzene-sulfonylchloride | 0.588 g | FC(OC=1C=C(C=CC1)S(=O)(=O)Cl)F | C7H5ClF2O3S
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
product | 4-[5-(3-Difluoromethoxy-benzenesulfonylamino)-2-methoxy-phenyl]-piperazine-1-carboxylic Acid tert-butyl Ester | 0.94 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)NS(=O)(=O)C1=CC(=CC=C1)OC(F)F)OC | C23H29F2N3O6S
